US04764519
(a) 3-(3-Methyl-5-nitropyrid-2-yl)-3,3-bis(carbethoxy)-propionitrile
2-(Cyanomethyl)malonic acid diethyl ester (G. Casini et al, Ann. Chim. (Rome), 51, 366-74 (1961) (81 g) was reacted with sodium hydride (8.9 g) in tetrahydrofuran at 20° C. 2-Chloro-3-methyl-5-nitropyridine (G. E. Hawkins & A. Roe, J. Org. Chem., 14, 328 (1949)) (58.5 g) was added and the internal temperature was raised to 95°-105° C. (some tetrahydrofuran was distilled off) over 11 hours. The reaction mixture was partitioned between chloroform and water (pH of aqueous phase was lowered to 3), the chloroform extracts were dried and concentrated in vacuo to give an oil (132 g). The oil was distilled under vacuum, the distillate collected at 60°-98° C. (vapour temp.) 0.2 mm Hg was discarded. The residues from the distillation (65 g) were dissolved in chloroform and filtered through a silica column and then concentrated, treated with charcoal and recrystallised from chloroform/petroleum ether (40°-60° C.) to give the title compound (30 g) m.p. 78°-80° C.

reactant | 2-(Cyanomethyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)CC#N)=O | C9H13NO4
reactant | sodium hydride | 8.9 g | [H-].[Na+]
reactant | 2-Chloro-3-methyl-5-nitropyridine | 58.5 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3-Methyl-5-nitropyrid-2-yl)-3,3-bis(carbethoxy)-propionitrile | 132 g | CC=1C(=NC=C(C1)[N+](=O)[O-])C(CC#N)(C(=O)OCC)C(=O)OCC | C15H17N3O6
